US06821980B1
(37b) 2,2-Dimethyl-propane-1-sulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxy-biphenyl-2-yl ester
Starting from 197 mg (0.66 mmol) N-(5-bromo-2-methoxy-phenyl)-2,2,2-trifluoro-acetamide and 173 mg (0.33 mmol) 2,2-dimethyl-propane-1-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester, 46 mg of the title compound are obtained as a brownish solid after two chromatography operations.

reactant | N-(5-bromo-2-methoxy-phenyl)-2,2,2-trifluoro-acetamide | 0.66 mmol, 197 mg | BrC=1C=CC(=C(C1)NC(C(F)(F)F)=O)OC | C9H7BrF3NO2
reactant | 2,2-dimethyl-propane-1-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester | 0.33 mmol, 173 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OS(=O)(=O)CC(C)(C)C)I)OCC | C18H25IN4O4S
product | 2,2-Dimethyl-propane-1-sulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methoxy-biphenyl-2-yl ester | 46 mg | NC=1C=C(C=CC1OC)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)CC(C)(C)C | C25H33N5O5S
